US06949536B2
1-[4-(Methylsulfonyl)phenyl]-2-[4-(2-thienyl)phenyl]-4-(trifluoromethyl)-1H-imidazole. (Step 3)
A mixture of 4-hydroxy-1-[4-(methylsulfonyl)phenyl]-2-[4-(2-thienyl)phenyl]-4-(trifluoromethyl)-4,5-dihydro-1H-imidazole (0.345 g, 0.74 mmol) and p-toluenesulfonic acid monohydrate (0.035 g) in toluene (40 mL) was heated to reflux for 7 hours. The reaction mixture was cooled and the solvent removed under reduced pressure. The crude residue was redissolved in CH2Cl2 (50 mL) and the whole washed with water, aqueous NaHCO3 (30 mL), and brine. After dried over Na2SO4, and concentration in vacuo. The crude mixture was purified by flash chromatography eluting with hexane/ethyl acetate (2/1). The resulting solid was recrystallized from ethyl acetate-hexane to give the title compound (0.212 g, 63.9% yield).

reactant | 4-hydroxy-1-[4-(methylsulfonyl)phenyl]-2-[4-(2-thienyl)phenyl]-4-(trifluoromethyl)-4,5-dihydro-1H-imidazole | 0.74 mmol, 0.345 g | OC1(N=C(N(C1)C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=C(C=C1)C=1SC=CC1)C(F)(F)F | C21H17F3N2O3S2
reactant | p-toluenesulfonic acid monohydrate | 0.035 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(Methylsulfonyl)phenyl]-2-[4-(2-thienyl)phenyl]-4-(trifluoromethyl)-1H-imidazole | 0.212 g, 63.9% yield | CS(=O)(=O)C1=CC=C(C=C1)N1C(=NC(=C1)C(F)(F)F)C1=CC=C(C=C1)C=1SC=CC1 | C21H15F3N2O2S2
